US04281136
E. 2-Methyl-3,4,5-trichloroisothiazolium hexachloroantimonate
Trichloroisothiazole (10 ml) and trimethyloxonium hexachloroantimonate (7.9 g, 0.02 mol) were heated at 90° for 30 min. After cooling either (150 ml) was added and the solid collected to yield 7.8 g (73%) of product, mp >240. Spectral data (NMR & IR) were consistent with the assigned structure.

reactant | trimethyloxonium hexachloroantimonate | 0.02 mol, 7.9 g | Cl[Sb-](Cl)(Cl)(Cl)(Cl)Cl.C[O+](C)C
reactant | Trichloroisothiazole | 10 ml | ClC1=C(C(=NS1)Cl)Cl | C3Cl3NS
product | 2-Methyl-3,4,5-trichloroisothiazolium hexachloroantimonate | 7.8 g, 73% | Cl[Sb-](Cl)(Cl)(Cl)(Cl)Cl.C[N+]=1SC(=C(C1Cl)Cl)Cl | InChI=1S/C4H3Cl3NS.6ClH.Sb/c1-8-3(6)2(5)4(7)9-8;;;;;;;/h1H3;6*1H;/q+1;;;;;;;+5/p-6
